US07485752B2
Benzoic acid N′-[3-(3-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide
A solution of (3-(3-bromophenyl)propionic acid (257 mg, 1.12 mmoles) and benzoic acid N′-isopropyl-hydrazide (200 mg, 1.12 mmoles) in DMF (6 mL) was treated with triethylamine (0.47 mL, 3.36 mmoles), HOBT (182 mg, 1.34 mmoles) and EDCI (2.58 mg, 1.34 mmoles) at room temperature for 18 h. The reaction mixture was partitioned between water and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-40% ethyl acetate/hexanes gradient to afford the product as a solid (293 mg, 67%).

reactant | 3-(3-bromophenyl)propionic acid | 1.12 mmoles, 257 mg | BrC=1C=C(C=CC1)CCC(=O)O | C9H9BrO2
reactant | benzoic acid N′-isopropyl-hydrazide | 1.12 mmoles, 200 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | triethylamine | 3.36 mmoles, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 1.34 mmoles, 182 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.34 mmoles, 2.58 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Benzoic acid N′-[3-(3-bromo-phenyl)-propionyl]-N′-isopropyl-hydrazide | 293 mg, 67% | BrC=1C=C(C=CC1)CCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C19H21BrN2O2
